US05968985
A mixture of 4,4-dimethyl-2-[3-(4-methoxycarbonyl-2,5-dihydrofuran-3-yl)phenyl]-4,5-dihydrooxazole (1.92 g) and sodium methoxide (0.96 g) in formamide (70 ml) was heated at 100° C. for three hours. The reaction mixture was cooled to room temperature and was poured onto ice-water. The product was extracted with ethyl acetate and the organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloroform and acetone (5:1). The fractions containing the desired product were collected and evaporated in vacuo to give 2-[3-(4-carbamoyl-2,5-dihydrofuran-3-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole.

reactant | 4,4-dimethyl-2-[3-(4-methoxycarbonyl-2,5-dihydrofuran-3-yl)phenyl]-4,5-dihydrooxazole | 1.92 g | CC1(N=C(OC1)C1=CC(=CC=C1)C=1COCC1C(=O)OC)C | C17H19NO4
reactant | sodium methoxide | 0.96 g | C[O-].[Na+]
reactant | formamide | 70 ml | C(=O)N | CH3NO
product | 2-[3-(4-carbamoyl-2,5-dihydrofuran-3-yl)phenyl]-4,4-dimethyl-4,5-dihydrooxazole | C(N)(=O)C1=C(COC1)C=1C=C(C=CC1)C=1OCC(N1)(C)C | C16H18N2O3
